US06054457
To an ice bath cooled solution of 4-[2-[(3-aminoprop-1-yl)oxy]benzoyl]amino-N-methyl-N-[2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide (200 mg) in dichloromethane (10 ml) were added triethylamine (36.2 mg) and acetic anhydride (36.5 mg) and the mixture was stirred at ambient temperature for 4 hours. The reaction mixture was washed successively with water (10 ml), saturated aqueous sodium hydrogen carbonate solution (10 ml) and brine (10 ml), and dried over magnesium sulfate. The solvent was evaporated to give 4-[2-[(3-acetylaminoprop-1-yl)oxy]benzoyl]amino-N-methyl-N-[2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide (201 mg) as a colorless amorphous.

reactant | 4-[2-[(3-aminoprop-1-yl)oxy]benzoyl]amino-N-methyl-N-[2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide | 200 mg | NCCCOC1=C(C(=O)NC2=CC=C(C(=O)N(C3=C(C=CC=C3)OCCCCCC(=O)N3CCN(CC3)C)C)C=C2)C=CC=C1 | C35H45N5O5
reactant | triethylamine | 36.2 mg | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 36.5 mg | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-[2-[(3-acetylaminoprop-1-yl)oxy]benzoyl]amino-N-methyl-N-[2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide | 201 mg | C(C)(=O)NCCCOC1=C(C(=O)NC2=CC=C(C(=O)N(C3=C(C=CC=C3)OCCCCCC(=O)N3CCN(CC3)C)C)C=C2)C=CC=C1 | C37H47N5O6
